US04939130
14.8 g (0.051 mole) of tetraethyl methanediphosphonate are added dropwise to a suspension of 2.4 g of sodium hydride in 35 ml of absolute tetrahydrofuran, and the reaction mixture is stirred at room temperature until the evolution of gas has ceased. Then 11.3 g (0.0465 mole) of 1-benzyl-2-chloromethylimidazole hydrochloride are added in portions. With stirring, the reaction mixture is heated under reflux for 20 hours to the boil. Precipitated sodium chloride is then removed by filtration and the filtrate is concentrated by evaporation under reduced pressure to give crude tetraethyl (1-benzylimidazol-2-ylmethyl)-methanediphosphonate. 3.0 g (0.065 mole) of tetraethyl (1-benzylimidazol-2-ylmethyl)-methanediphosphonate and 12 ml of 36% hydrochloric acid are heated under reflux for 20 hours to the boil. The reaction mixture is then concentrated by evaporation and the residue is crystallised from aqueous methanol, to give 2-(1-benzylimidazol-2-yl)ethane-1,1-diphosphonic acid monohydrate of m.p. 181°-183° C. Yield: 80% of theory.

reactant | tetraethyl methanediphosphonate | 0.051 mole, 14.8 g | C(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C9H22O6P2
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 1-benzyl-2-chloromethylimidazole hydrochloride | 0.0465 mole, 11.3 g | Cl.C(C1=CC=CC=C1)N1C(=NC=C1)CCl
reactant | tetraethyl (1-benzylimidazol-2-ylmethyl)-methanediphosphonate | 0.065 mole, 3.0 g | C(C1=CC=CC=C1)N1C(=NC=C1)CC(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C20H32N2O6P2
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 2-(1-benzylimidazol-2-yl)ethane-1,1-diphosphonic acid monohydrate | Yield: 80% | O.C(C1=CC=CC=C1)N1C(=NC=C1)CC(P(O)(=O)O)P(O)(=O)O | InChI=1S/C12H16N2O6P2.H2O/c15-21(16,17)12(22(18,19)20)8-11-13-6-7-14(11)9-10-4-2-1-3-5-10;/h1-7,12H,8-9H2,(H2,15,16,17)(H2,18,19,20);1H2
